US05262390
Step K: Methyl 2-[2-[4-(4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-on-1-yl)-3-fluorophenoxymethyl]-5-methylphenoxy]propionate
A mixture of 0.50 g (0.0019 mole) of 1-(2-fluoro-4-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one, 0.39 g (0.0028 mole) of anhydrous potassium carbonate, and 0.92 g (0.0038 mole) of methyl 2-(2-chloromethyl-5-methylphenoxy)propionate in 20 mL of N,N-dimethylformamide was heated at 90° C. for approximately 17 hours. At the end of this period the mixture was poured over ice, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated under reduced pressure, leaving an orange oil as a residue. This oil was placed on a silica gel column and eluted first with methylene chloride and then with methylene chloride/ethyl acetate (97.5/2.5). After the product-containing fractions were combined and the solvents evaporated under reduced pressure, 0.82 g of 2-[2-[4-(4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-on-1-yl)-3-fluorophenoxymethyl]-5-methylphenoxy]propionate was recovered as a yellow oil. The NMR and IR spectra were consistent with the proposed structure. NMR: 1.60 (d, 3H, JHH =8.0 Hz); 2.30 (s, 3H); 2.44 (s, 3H); 3.76 (s, 3H); 4.84 (q, 1H, JHH =8.0 Hz); 5.16 (dd, 2H, JHH =10.0 Hz); 6.56 (s, 1H); 6.78-7.32 (m, 6H).

reactant | 1-(2-fluoro-4-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.0019 mole, 0.50 g | FC1=C(C=CC(=C1)O)N1N=C(N(C1=O)C(F)F)C | C10H8F3N3O2
reactant | potassium carbonate | 0.0028 mole, 0.39 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-(2-chloromethyl-5-methylphenoxy)propionate | 0.0038 mole, 0.92 g | ClCC1=C(OC(C(=O)OC)C)C=C(C=C1)C | C12H15ClO3
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Methyl 2-[2-[4-(4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-on-1-yl)-3-fluorophenoxymethyl]-5-methylphenoxy]propionate | FC(N1C(=NN(C1=O)C1=C(C=C(OCC2=C(OC(C(=O)OC)C)C=C(C=C2)C)C=C1)F)C)F | C22H22F3N3O5
